US08211820B2
Preparation of 2-methoxy-2′-methylbiphenyl
A THF solution of ethylmagnesium bromide (0.324 mL, 1.08 M, 0.35 mmol) was added to FeF3.3H2O (8.34 mg, 0.05 mmol) and 1,3-bis(2,6-diisopropylphenyl)imidazolinium chloride (63.8 mg, 0.15 mmol) and triphenylphosphine (13.1 mg, 0.05 mmol) at 0° C. under argon atmosphere. The following process was also performed under argon atmosphere. After stirring for six hours at room temperature, 1-chloro-2-methoxybenzene (142.6 mg, 1.0 mmol) and a THF solution of o-tolylmagnesium bromide (1.88 mL, 0.80 M, 1.5 mmol) was added to the mixture. The mixture was reacted at 60° C. for 24 hours, and then at 80° C. for 12 hours. After cooled to the ambient temperature, 2.0 mL of saturated sodium potassium tartrate aqueous solution was added to the reaction mixture. The water layer was extracted five times using Et2O. The total organic extract was filtrated by Florisil pad (100-200 mesh, Nacalai Tesque, Inc.). After removing the solvent under reduced pressure, the crude product was dissolved in CH2Cl2 (1.0 mL). Then, m-chloroperbenzoic acid (MCPBA) (0.06 mmol) was added at room temperature, and the reaction mixture was stirred for 30 minutes. After removing the solvent under reduced pressure, the crude product was purified by silica gel chromatography (toluene=15, 30, 50% in hexane), thereby obtaining the above compound, which was a white solid (0.188 g, yield=95%, purity=>99% (GC analysis)).

reactant | ethylmagnesium bromide | 0.35 mmol, 1.08 M, 0.324 mL | C(C)[Mg]Br
reactant | 1,3-bis(2,6-diisopropylphenyl)imidazolinium chloride | 0.15 mmol, 63.8 mg | [Cl-].C(C)(C)C1=C(C(=CC=C1)C(C)C)[NH+]1CN(CC1)C1=C(C=CC=C1C(C)C)C(C)C
reactant | triphenylphosphine | 0.05 mmol, 13.1 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-chloro-2-methoxybenzene | 1.0 mmol, 142.6 mg | ClC1=C(C=CC=C1)OC | C7H7ClO
reactant | o-tolylmagnesium bromide | 1.5 mmol, 0.80 M, 1.88 mL | C1(=C(C=CC=C1)[Mg]Br)C
reactant | sodium potassium tartrate | 2.0 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | m-chloroperbenzoic acid | 0.06 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | THF | C1CCOC1 | C4H8O
product | 2-methoxy-2′-methylbiphenyl | yield=95% | COC1=C(C=CC=C1)C1=C(C=CC=C1)C | C14H14O
